US07074798B2
a) 7-Benzyl-3-methyl-3,7-dihydropurine-2,6-dione
3-Methylxanthine (2.882 g) was suspended in N,N-dimethylformamide (40 ml), and potassium carbonate (3 g) and benzyl bromide (2.5 ml) was added thereto. The reaction mixture was stirred at room temperature overnight, diluted with ethyl acetate, and washed with 1 N hydrochloric acid. The deposited crystals were collected by filtration and washed with ethyl acetate to give 3.18 g of the title compound.

reactant | 3-Methylxanthine | 2.882 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Benzyl-3-methyl-3,7-dihydropurine-2,6-dione | 3.18 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
